Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
chlorthalidone / Elavil / Lipitor
 
Attending: ___.
 
Chief Complaint:
Shortness of breath/Right pneumothorax

 
Major Surgical or Invasive Procedure:
Placement of right chest tube

 
History of Present Illness:
___ woman with a history of an enlarging ground-glass 
opacity of the right upper lobe concerning for neoplasm who had 
fiducial markers placed a week ago presents to the ED for 
evaluation and treatment of a right pneumothorax diagnosed by 
her PCP during ___ follow up appointment. The patient was 
previously
evaluated by thoracic services earlier this year but deemed a 
poor candidate for surgical intervention due to her significant 
comorbidities. She was referred to radiation oncology for 
consideration of CyberKnife treatment of this lesion. She 
underwent fiducial seed placement on ___. She experienced 
some back pain on the day of the procedure but no concerning 
issues with breathing, and the pain resolved without 
intervention by the next day. However, she then noticed 
progressive difficulty taking deep breaths on the following 
days. This, however, was cofounded by her history of COPD and 
she was not overly concerned by these symptoms. She had an 
appointment with her PCP today and on examination she was found 
dyspneic. A chest radiograph was obtained, showing a moderate 
right middle lobe pneumothorax. She was referred to ___ ED. 
Thoracic surgery service was consulted for evaluation and 
treatment recommendations of her right pneumothorax.

 
Past Medical History:
Aortic Insufficiency
Aortic Stenosis 
Atrial Fibrillation
Chronic Obstructive Pulmonary Disease
Colon Polyps
Coronary Artery Disease 
Diabetes Mellitus
Hyperlipidemia
Hypertension
NSTEMI ___
Osteopenia
Patent Foramen Ovale  
Peripheral Vascular Disease 
Osteopenia
Sciatica 
Spinal Stenosis/ L5-S1 posterior disc herniation 
PFO closure/AVR/CABG (SVG-ramus, #21 microflow bovine) ___ at
___ with Dr. ___ x 2 to SVG -Ramus and complex proximal LAD lesion s/p
___ 
 
Social History:
___
Family History:
Mother -  myocardial infarction in her ___ and lived into her 
___

 
Physical Exam:
VS 98.2  112/57  83  18  94%@ra
GEN: Pleasant, NAD, calm, cooperative  
HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI  
CARDIAC: RRR, no murmurs 
CHEST: Clear to auscultation bilaterally, (-) cyanosis.  
ABDOMEN: soft, diffuse tenderness, chest tube incision dressing 
c/d/i 
EXTREMITIES: Warm, well perfused, no edema
NEURO: AA&O x 3
 
Pertinent Results:
___ 01:00PM BLOOD WBC-7.8 RBC-3.77* Hgb-12.3 Hct-36.9 
MCV-98 MCH-32.6* MCHC-33.3 RDW-12.5 RDWSD-45.0 Plt ___
___ 01:00PM BLOOD Neuts-60.0 ___ Monos-10.0 Eos-1.7 
Baso-0.5 Im ___ AbsNeut-4.67 AbsLymp-2.12 AbsMono-0.78 
AbsEos-0.13 AbsBaso-0.04
___ 01:00PM BLOOD Plt ___
___ 01:00PM BLOOD ___ PTT-27.8 ___
___ 01:00PM BLOOD Glucose-134* UreaN-8 Creat-0.7 Na-140 
K-5.1 Cl-100 HCO3-25 AnGap-20
___ 01:00PM BLOOD estGFR-Using this
___ 01:30PM BLOOD ___ pO2-45* pCO2-50* pH-7.37 
calTCO2-30 Base XS-1
___ 01:30PM BLOOD Lactate-1.5
___ 01:30PM BLOOD O2 Sat-76

Chest X-ray ___
Moderately size right apical pneumothorax without evidence of 
tension.

Chest X-ray ___
In comparison with the study of ___, the right chest tube 
remains in place with no evidence of pneumothorax.  There are 
improved lung volumes with continued atelectatic changes at the 
bases.  No evidence of acute pneumonia or vascular congestion. 

Chest X-ray ___
In comparison with the study of ___, the right chest tube has 
been removed. No definite pneumothorax is appreciated. 
Otherwise, little change. 
  

 
Brief Hospital Course:
The patient was admitted to the Thoracic Surgery Service on 
___ for evaluation and treatment of shortness of breath and a 
right pneumothorax. She had
undergone fiducial seed placement on ___. She had an 
appointment with her PCP ___ ___ and on examination she was 
found dyspneic. A chest radiograph was
obtained, showing a moderate right middle lobe pneumothorax. She 
came to ___ where this was managed in the ED with supplemental 
oxygen via nasal cannula and placement of a right ___ chest 
tube. She was admitted to the floor where she received pain 
control and pulmonary toilet. The patient's vital signs and 
respiratory status were closely monitored.  She also received 
oxygen via nasal cannula and eventually was weaned off as her 
oxygenation and pain improved. The chest tube was clamped on HD1 
and the chest x-ray obtained post-clamp showed that the 
pneumothorax had resolved. The patient's home medications where 
started. On HD2 the chest tube was removed and x-ray showed no 
pneumothorax and improvement in lung volume. 
On ___ the patient was discharged home with detailed 
instructions and she verbalized understanding and agreement with 
the discharge plan. All questions were answered to the patient’s 
satisfaction. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Ipratropium-Albuterol Inhalation Spray 2 INH IH Q6H 
4. Labetalol 400 mg PO BID 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina 
7. Rosuvastatin Calcium 20 mg PO QPM 
8. amLODIPine 5 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Omeprazole 20 mg PO DAILY 
11. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  amLODIPine 5 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Gabapentin 300 mg PO TID  
5.  Ipratropium-Albuterol Inhalation Spray 2 INH IH Q6H  
6.  Labetalol 400 mg PO BID  
7.  Lisinopril 40 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN angina  
10.  Omeprazole 20 mg PO DAILY  
11.  Rosuvastatin Calcium 20 mg PO QPM  
12.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right pneumothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
 * You were admitted to the hospital with right sided chest pain 
for a collapsed lung which was treated with a chest tube for 
drainage. The chest has been removed, your lung has expanded, 
and you've recovered well. You are now ready for discharge.  
 * Continue to use your incentive spirometer 10 times an hour 
while awake.  
 *Check your right chest incision daily and report any increased 
redness or drainage. Cover the area with a gauze pad if it is 
draining.  
 * Your chest tube dressing may be removed in 48 hours. If it 
starts to drain, cover it with a clean dry dressing and change 
it as needed to keep site clean and dry.  
 * You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems. Use a stool softener or gentle laxative to 
stay regular.  
 * No driving while taking narcotic pain medication.  
 * Take Tylenol ___ mg every 6 hours in between your narcotic. 
If your doctor allows you may also take Ibuprofen to help 
relieve the pain.  
 * Continue to stay well hydrated and eat well to heal your 
incisions  
 * Shower daily. Wash incision with mild soap & water, rinse, 
pat dry  
 * No tub bathing, swimming or hot tubs until incision healed  
 * No lotions or creams to incision site  
 * Walk ___ times a day and gradually increase your activity as 
you can tolerate.  
 Call your doctor if you experience:  
 -Temp > 101, chills, increased shortness of breath, chest pain 
or any other symptoms that concern you.  

Follow up with Dr. ___ as previously scheduled.

 Thank you for allowing us to participate in your care! Our hope 
is that you will have a quick return to your life and usual 
activities.
 
Followup Instructions:
___